US09227950B2
Imidazole (43.2 g, 635 mmol) was dissolved in tetrahydrofuran (100 ml), and under ice cooling, thionyl chloride (23.5 g, 199 mmol) was added thereto. The reaction mixture was stirred for 3 hours at room temperature, and then the salt thus produced was separated by filtration. Thus, a sulfinyldiimidazole solution was obtained.

reactant | Imidazole | 635 mmol, 43.2 g | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 199 mmol, 23.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | sulfinyldiimidazole | S(=O)(C=1NC=CN1)C=1NC=CN1 | C6H6N4OS
